US07842758B2
N,N-Dihexylaniline
A mixture of aniline (5.90 ml, 6.47×10−2 mol), 1-iodohexane (20.0 ml, 0.136 mol) and K2CO3 (18.80 g, 0.136 mol) in 80 ml of EtOH was refluxed for 27 h under Ar. The precipitate was filtered off and washed with CH2Cl2. The filtrate was washed with water and dried over Na2SO4. The residue was chromatographed on silica gel with 4:1 hexane:CHCl3 as the eluent. Yield=14.735 g (87% based on 5.90 ml of aniline). 1H NMR (250 MHz, CDCl3): δ 7.20 (dd, 2H, J=7.1, 8.8 Hz, Ph), 6.57-6.66 (m, 3H, Ph), 3.24 (t, 4H, J=7.7 Hz, —NCH2—), 1.48-1.65 (m, 4H, —NCH2CH2—), 1.22-1.40 (m, 12H, —CH2—), 0.90 (t, 6H, J=6.6 Hz, —CH3). CI MS m/z: 262.253 ((M+H)+) (calcd 262.253).

reactant | aniline | 6.47×10−2 mol, 5.90 ml | NC1=CC=CC=C1 | C6H7N
reactant | 1-iodohexane | 0.136 mol, 20.0 ml | ICCCCCC | C6H13I
reactant | K2CO3 | 0.136 mol, 18.80 g | C(=O)([O-])[O-].[K+].[K+]
solvent | EtOH | 80 ml | CCO | C2H6O
product | N,N-Dihexylaniline | C(CCCCC)N(C1=CC=CC=C1)CCCCCC | C18H31N
